US09212182B2
Steps 4: Synthesis of 1-(5-(cyanomethoxy)-2,3′-difluoro-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide
Under a nitrogen atmosphere, a solution of perfluorophenyl 1-(5-(cyanomethoxy)-2,3′-difluoro-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (250 mg, 0.394 mmol), isoxazol-3-amine (40.8 μl, 0.552 mmol) and THF (3940 μl) was cooled in an ice-bath for 15 min, then lithium bis(trimethylsilyl)amide (1M in THF, 985 μl, 0.985 mmol) was added dropwise. The whole was warmed to rt and stirred for 30 min. An additional 1 mL of 1M LHMDS in THF was added and stirred for 30 min. The whole was quenched with 0.2 mL of TFA and concentrated. The product was purified further by RPLC on the acidic Gilson. Fractions containing the product were combined and concentrated. Precipitate was filtered with an aid of water, dried to afford pink solid. m/z (ESI), [M+H]+=535.2. 1H NMR (500 MHz, DMSO-d6) δ ppm 5.11-5.33 (m, 2 H) 6.45 (d, J=1.76 Hz, 1 H) 6.77-6.96 (m, 2 H) 7.28-7.46 (m, 1 H) 7.50-7.59 (m, 2H) 7.59-7.72 (m, 3 H) 7.87 (dd, J=8.98, 2.08 Hz, 1 H) 8.26 (d, J=9.83 Hz, 1H) 8.40 (d, J=2.03 Hz, 1 H) 8.73 (d, J=1.76 Hz, 1 H) 11.66 (br. s., 1 H).

reactant | perfluorophenyl 1-(5-(cyanomethoxy)-2,3′-difluoro-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.394 mmol, 250 mg | C(#N)COC=1C(=CC(=C(C1)C1=CC(=CC=C1)F)F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C29H13F7N2O5S
reactant | isoxazol-3-amine | 0.552 mmol, 40.8 μl | O1N=C(C=C1)N | C3H4N2O
reactant | lithium bis(trimethylsilyl)amide | 0.985 mmol, 1M, 985 μl | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | LHMDS | 1M, 1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3940 μl | C1CCOC1 | C4H8O
product | 1-(5-(cyanomethoxy)-2,3′-difluoro-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | C(#N)COC=1C(=CC(=C(C1)C1=CC(=CC=C1)F)F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C26H16F2N4O5S
